US05045552
1.0 ml of thionyl chloride was gradually added to a solution of 0.92 g (5 mmol) of 4-(2-hydroxyethoxy)-2,3-dimethylpyridine N-oxide in 10 ml of chloroform under cooling with ice. The obtained mixture was heated under reflux for 2 hours, cooled by allowing to stand, neutralized with a saturated aqueous solution of sodium hydrogencarbonate and extracted with 100 ml of methyl ethyl ketone twice. The extract was dried over magnesium sulfate and filtered. The filtrate was concentrated and purified by silica gel column chromatography (solvent: chloroform/methanol=19:1) to obtain 0.56 g of 4-(2-chloroethoxy)-2,3-dimethylpyridine N-oxide as a colorless crystal.

reactant | thionyl chloride | 1.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(2-hydroxyethoxy)-2,3-dimethylpyridine N-oxide | 5 mmol, 0.92 g | OCCOC1=C(C(=[N+](C=C1)[O-])C)C | C9H13NO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-chloroethoxy)-2,3-dimethylpyridine N-oxide | 0.56 g | ClCCOC1=C(C(=[N+](C=C1)[O-])C)C | C9H12ClNO2
